US07601717B2
a.) 2-Amino-6-(1,2-dihydroxy-propyl)-4-oxo-4,6,7,8-tetrahydro-1H-pteridine-5-carboxylic acid tert-butyl ester
To a stirred suspension 2-amino-6-(1,2-dihydroxy-propyl)-5,6,7,8-tetrahydro-1H-pteridin-4-one dihydrochloride (BH4, 5 g, 15.9 mmol) in pyridine (75 ml) under an atmosphere of nitrogen was added di-tert-butyl dicarbonate (5.2 g, 23.8 mmol). The mixture was stirred before the addition of more BH4 (5 g, 15.9 mmol) and di-tert-butyl dicarbonate (5.2 g, 23.8 mmol). 4-(Dimethylamino)pyridine (catalytic) was also added and the mixture was stirred under an atmosphere of nitrogen for 12 h at room temperature. The solvent was evaporated in vacuo and the residue placed under high vacuum for 24 h. The residue was dissolved in methanol (150 ml) and to the solution was added 30 g of MP-carbonate (Biotage, 3.14 mmol/g). The mixture was gently stirred at room temperature for 12 h. The mixture was filtered through celite and the filtrate evaporated in vacuo to give a yellow solid that was used without further purification. MS: ESI (positive): 342 (M+H).

reactant | 2-amino-6-(1,2-dihydroxy-propyl)-5,6,7,8-tetrahydro-1H-pteridin-4-one dihydrochloride | 15.9 mmol, 5 g | Cl.Cl.NC=1NC=2NCC(NC2C(N1)=O)C(C(C)O)O
reactant | di-tert-butyl dicarbonate | 23.8 mmol, 5.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-amino-6-(1,2-dihydroxy-propyl)-5,6,7,8-tetrahydro-1H-pteridin-4-one dihydrochloride | 15.9 mmol, 5 g | Cl.Cl.NC=1NC=2NCC(NC2C(N1)=O)C(C(C)O)O
reactant | di-tert-butyl dicarbonate | 23.8 mmol, 5.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-(Dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-Amino-6-(1,2-dihydroxy-propyl)-4-oxo-4,6,7,8-tetrahydro-1H-pteridine-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=2C(N=C(NC2NCC1C(C(C)O)O)N)=O | C14H23N5O5
